US05068320
6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine (0.310 g, 1.1 mmoles), 4-dimethylaminopyridine (27 mg, 0.2 mmoles, Aldrich Chemical Co., Madison, Wis.), and triethylamine (1.1 mL, 8 mmoles, Aldrich Chemical Co., Madison, Wis.) were dissolved in 50 mL acetonitrile. Benzoic anhydride (0.92 g, 4.0 mmoles, Aldrich Chemical Co., Madison, Wis.) was added and the reaction was stirred at room temperature for 6 hours. The reaction was quenched with methanol and solvents were evaporated in vacuo. The residue was suspended in ethyl acetate and undissolved salts were removed by filtration. The filtrate was concentrated and applied to preparative silica gel plates (20×20×0.2 cm). The plates were developed in a mixture of chloroform:acetone (80:20). The product was scraped from the preparative plate and eluted from the silica gel with ethanol. The product was concentrated and then reapplied to preparative silica gel plates (20×20×0.2 cm). These plates were developed in a mixture of dichloromethane:methanol (90:10). The product was scraped from the preparative plate and eluted from the silica gel with ethanol. Final purification of the product was achieved by flash chromatography on a silica gel column (2.5×40 cm) with a mixture of dichloromethane:methanol (90:10). Lyophilization afforded 0.342 g of 6-(cyclopropylmethylamino)-9-[(2R,5S)-5-[(benzoyloxy)-methyl]-tetrahydro-2-furyl]-9H-purine as an oil (78% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1.1 mmoles, 0.310 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 8 mmoles, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | Benzoic anhydride | 4.0 mmoles, 0.92 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
catalyst | 4-dimethylaminopyridine | 0.2 mmoles, 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-(cyclopropylmethylamino)-9-[(2R,5S)-5-[(benzoyloxy)-methyl]-tetrahydro-2-furyl]-9H-purine | 0.342 g, 78% yield | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)COC(C1=CC=CC=C1)=O | C21H23N5O3
